US05098466
To 50 mg of 2-acetylnicotinic acid are added 56 mg of 4-(3,5-difluorophenyl)semicarbazide and 1 mL of methanol. After a minute of stirring the product begins precipitating from the solution. After stirring overnight (15 h) the stir vane is removed and rinsed with 0.2 mL of methanol. The reaction mixture is centrifuged and the supernatant solution removed. In the same way the solid is rinsed with methanol (3×0.5 mL) and ether (1×0.5 mL). The solid is dried in vacuo with heating to give 2-acetylnicotinic acid 4-(3,5-difluorophenyl)semicarbazone (also known as 2-[methyl-{[(3,5-difluorophenylamino)carbonyl]hydrazono}methyl]-3-pyridine-carboxylic acid), m.p. 186° (compound 31, Table A).

reactant | 2-acetylnicotinic acid | 50 mg | C(C)(=O)C1=C(C(=O)O)C=CC=N1 | C8H7NO3
reactant | 4-(3,5-difluorophenyl)semicarbazide | 56 mg | FC=1C=C(C=C(C1)F)NC(NN)=O | C7H7F2N3O
solvent | methanol | 1 mL | CO | CH4O
product | 2-acetylnicotinic acid 4-(3,5-difluorophenyl)semicarbazone | FC=1C=C(C=C(C1)F)NC(NN=C(C1=C(N=CC=C1)C(C)=O)O)=O | C15H12F2N4O3
